US06908913B2
7-[[(2S)-1-(4-Nitrobenzyloxycarbonyl)pyrrolidin-2-yl]hydroxymethyl]imidazo[5,1-b]thiazole (2.21 g) was prepared in the same manner as in step a) of Synthesis Example 1, except that 2.50 g of 7-iodoimidazo[5,1-b]thiazole and 2.32 g of (2S)-1-(4-nitrobenzyloxycarbonyl)pyrrolidine-2-aldehyde were used as the starting compounds.

reactant | 7-iodoimidazo[5,1-b]thiazole | 2.50 g | IC=1N=CN2C1SC=C2 | C5H3IN2S
reactant | (2S)-1-(4-nitrobenzyloxycarbonyl)pyrrolidine-2-aldehyde | 2.32 g | [N+](=O)([O-])C1=CC=C(COC(=O)N2[C@@H](CCC2)C=O)C=C1 | C13H14N2O5
product | 7-[[(2S)-1-(4-Nitrobenzyloxycarbonyl)pyrrolidin-2-yl]hydroxymethyl]imidazo[5,1-b]thiazole | 2.21 g | [N+](=O)([O-])C1=CC=C(COC(=O)N2[C@@H](CCC2)C(C=2N=CN3C2SC=C3)O)C=C1 | C18H18N4O5S
